US07547691B2
2-{5-Chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methoxyamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the title compound is synthesized from 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid and isolated as a yellow solid. ES+(m/z) 475 (35Cl) and 477 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(=O)O)Cl | C13H6Cl2N2O2S
product | 2-{5-Chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methoxyamide tri-hydrochloride | Cl.Cl.Cl.CONC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C | InChI=1S/C22H27ClN6O2S.3ClH/c1-28-9-11-29(12-10-28)8-4-7-24-22-25-14-17(23)20(26-22)19-13-16-15(21(30)27-31-2)5-3-6-18(16)32-19;;;/h3,5-6,13-14H,4,7-12H2,1-2H3,(H,27,30)(H,24,25,26);3*1H
